US04199517
Cumylphenyl acrylate was prepared in the apparatus described in Example A. One mole of cumylphenol and 2 moles of calcium carbonate were slurried in the presence of 1 liter of toluene solvent. During a period of 2 hours, one mole of acryl chloride was added to the solution while the temperature was maintained at 40° to 50° C. The reaction mixture was filtered and the filtrate distilled at 5 mm Hg. to produce a pale yellow oil boiling at 198° to 203° C. The yield was 84%. Gas chromatographic assay indicated that less than 3% of unreacted cumyl phenol was retained in the product.

reactant | cumylphenol | One mole | C(C)(C)(C1=CC=CC=C1)C1=C(C=CC=C1)O | C15H16O
reactant | calcium carbonate | 2 moles | C([O-])([O-])=O.[Ca+2]
reactant | acryl chloride | one mole | C(=O)(C=C)Cl | C3H3ClO
solvent | toluene | 1 liter | C1(=CC=CC=C1)C | C7H8
product | Cumylphenyl acrylate | yield was 84% | C(C=C)(=O)OC1=C(C=CC=C1)C(C)(C)C1=CC=CC=C1 | C18H18O2
